US07582773B2
Step 5: Synthesis of 3-Benzyl-1,2-dimethyl-5-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole.
The desired product was prepared using a procedure similar to step 6 of example 3. Thus, [4-(3-benzyl-1,2-dimethyl-1H-indol-5-yl)-phenoxy]-acetonitrile (0.144 g, 0.393 mmol) was reacted with NaN3 (0.128 g, 1.965 mmol) and NH4Cl (0.105 g, 1.965 mmol) in DMF (5 ml) to give the product (0.133 g, 0.325 mmol, 83%) as a white solid, dec. 214-215° C.

reactant | [4-(3-benzyl-1,2-dimethyl-1H-indol-5-yl)-phenoxy]-acetonitrile | 0.393 mmol, 0.144 g | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(OCC#N)C=C1)C)C | C25H22N2O
reactant | NaN3 | 1.965 mmol, 0.128 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 1.965 mmol, 0.105 g | [NH4+].[Cl-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-Benzyl-1,2-dimethyl-5-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(C=C1)OCC1=NN=NN1)C)C | C25H23N5O
